US08754073B2
4.2 methyl(R)-(4-fluorophenyl)-(2,2,2-trifluoracetylamino)-acetate
5.1 g methyl(R)-amino-(4-fluorophenyl)-acetate are placed in 36.5 ml abs. Tetrahydrofuran, then 3.9 ml triethylamine added. The reaction mixture is cooled to −70° C. 3.9 ml trifluoroacetic anhydride are then slowly added dropwise, so that the temperature does not exceed −60° C. The reaction mixture is stirred for 12 hours at ambient temperature and then mixed with water. Then potassium hydrogen carbonate is added until no further foaming can be observed and the product is extracted with ethyl acetate. 6.2 g of the product are obtained as an oil. Analytical HPLC-MS (method A): RT=1.28 min.

reactant | methyl(R)-amino-(4-fluorophenyl)-acetate | 5.1 g | N[C@@H](C(=O)OC)C1=CC=C(C=C1)F | C9H10FNO2
reactant | Tetrahydrofuran | O1CCCC1 | C4H8O
reactant | trifluoroacetic anhydride | 3.9 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | potassium hydrogen carbonate | C(O)([O-])=O.[K+]
solvent | water | O | H2O
solvent | triethylamine | 3.9 ml | C(C)N(CC)CC | C6H15N
product | methyl(R)-(4-fluorophenyl)-(2,2,2-trifluoracetylamino)-acetate | 6.2 g | FC1=CC=C(C=C1)[C@H](C(=O)OC)NC(C(F)(F)F)=O | C11H9F4NO3
